US06790860B2
A slurry of 300 mg (0.73 mmol) (2S,4R)-methanesulfonic acid 1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl ester and 109 mg (0.73 mmol) of NaI in 5 ml benzylamine was heated in the oil bath to 100° C., evaporated in the kugelrohr at 50-70° C./1 Torr and extracted with aqueous saturated NaHCO3 solution/Et2O (3×). The organic phase was dried over Na2SO4, evaporated and the residue was crystallized from Et2O/pentane at −20° C. to give 200 mg (65%) of (2S,4R)-benzyl-[1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl]-amine, mp 63-64° C., MS: 421 (MH+).

reactant | (2S,4R)-methanesulfonic acid 1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl ester | 0.73 mmol, 300 mg | CS(=O)(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)COS(=O)(=O)C | C15H23NO6S3
reactant | NaI | 0.73 mmol, 109 mg | [Na+].[I-]
reactant | benzylamine | 5 ml | C(C1=CC=CC=C1)N | C7H9N
product | (2S,4R)-benzyl-[1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl]-amine | 200 mg, 65% | C(C1=CC=CC=C1)NC[C@H]1N(C[C@@H](C1)SCC1=CC=C(C=C1)OC)S(=O)(=O)C | C21H28N2O3S2
